US06166006
To a solution of methyl (E)-3-[5-(4-methylphenyl)-furan-2-yl]acrylate (1.49 g) in tetrahydrofuran-ethanol (10-10 ml) was added 2N sodium hydroxide (4 ml) at room temperature, and the mixture was stirred for 24 hours. The reaction mixture was acidified with 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with magnesium sulfate and concentrated under reduced pressure to give (E)-3-[5-(4-methylphenyl)-furan-2-yl]acrylic acid (0.93 g) as colorless crystals.

reactant | methyl (E)-3-[5-(4-methylphenyl)-furan-2-yl]acrylate | 1.49 g | CC1=CC=C(C=C1)C1=CC=C(O1)/C=C/C(=O)OC | C15H14O3
reactant | sodium hydroxide | 2N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran-ethanol | 10-10 ml | O1C(CCC1)CCO | C6H12O2
product | (E)-3-[5-(4-methylphenyl)-furan-2-yl]acrylic acid | 0.93 g | CC1=CC=C(C=C1)C1=CC=C(O1)/C=C/C(=O)O | C14H12O3
